US08748462B2
(R)-Methyl 3-(2,2-dimethylcyclopentyl)-4-(trifluoromethylsulfonyloxy)benzoate (T5.2)
DMAP (220 mg, 1804 μmol) was added to a flask containing (R)-methyl 3-(2,2-dimethylcyclopentyl)-4-hydroxybenzoate (T5.1) (8960 mg, 36083 μmol). The flask was flushed with nitrogen and DCM (87 mL, 36083 μmol) was added, followed by addition of TEA (7.5 mL, 54124 μmol). After 15 minutes, PhN(Tf)2 (14180 mg, 39691 μmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) was added. The reaction was stirred overnight and concentrated. Silica gel chromatography with EtOAc and hexanes as eluent afforded 13.7 g of T5.2 (100%).

reactant | (R)-methyl 3-(2,2-dimethylcyclopentyl)-4-hydroxybenzoate | 36083 μmol, 8960 mg | CC1([C@@H](CCC1)C=1C=C(C(=O)OC)C=CC1O)C | C15H20O3
reactant | DCM | 36083 μmol, 87 mL | C(Cl)Cl | CH2Cl2
reactant | PhN(Tf)2 | 39691 μmol, 14180 mg | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
catalyst | DMAP | 1804 μmol, 220 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-Methyl 3-(2,2-dimethylcyclopentyl)-4-(trifluoromethylsulfonyloxy)benzoate | CC1([C@@H](CCC1)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F)C | C16H19F3O5S
